US04284631
A solution of 1-methylimidazole (0.5 g.) in 1 N sodium hydroxide aqueous solution (48 ml.) was added to a solution of ethyl 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)acetate (syn isomer, 12.0 g.), methanol (120 ml.) and tetrahydrofuran (100 ml.) at 15° to 20° C., and stirred at 35° to 40° C. for 6 hours. After removing methanol and tetrahydrofuran in vacuo from the resultant mixture, the aqueous residue was washed with ethyl acetate. Ethyl acetate was completely removed from the aqueous solution and adjusted to pH 2.0 with hydrochloric acid. The precipitates were collected by filtration to give 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino) acetic acid (syn isomer, 10.0 g.).

reactant | 1-methylimidazole | 0.5 g | CN1C=NC=C1 | C4H6N2
reactant | ethyl 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)acetate | 12.0 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC1=C(C=C(C=C1)Cl)Cl | C14H13Cl2N3O3S
reactant | methanol | 120 ml | CO | CH4O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 N, 48 ml | [OH-].[Na+]
product | 2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino) acetic acid | 10.0 g | NC=1SC=C(N1)C(C(=O)O)=NOCC1=C(C=C(C=C1)Cl)Cl | C12H9Cl2N3O3S
